US04859679
8-(2-Pyrimidylthio)quinoline
To a solution of 210 mg. (1.06 m mole) of quinoline-8-thiol hydrochloride in 5 ml. of dry methanol was added 128 mg. (1.05 mmol) of 2-chloropyrimidine in 2 ml. of the same solvent followed by 0.148 ml (1 mmol) of dry triethylamine. The reaction mixture was allowed to stir at room temperature overnight followed by the removal of the methanol in vacuo. The residue was partitioned between a saturated sodium bicarbonate solution and ethyl acetate. The organic phase was separated, dried and concentrated. The residue was redissolved in chloroform and concentrated without heat. The residue was triturated with ethyl acetate, filtered and dried, 170 mg., m.p. 165°-168° C.

reactant | quinoline-8-thiol hydrochloride | Cl.N1=CC=CC2=CC=CC(=C12)S
reactant | 2-chloropyrimidine | 1.05 mmol | ClC1=NC=CC=N1 | C4H3ClN2
reactant | triethylamine | 1 mmol, 0.148 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 8-(2-Pyrimidylthio)quinoline | N1=C(N=CC=C1)SC=1C=CC=C2C=CC=NC12 | C13H9N3S
